Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female h/o cardiomyopathy/CHF, DMII cocaine use 2 d ago, 
presents with 1 week of bilateral flank pain, abdominal pain and 
vomiting. She has been vomiting non-bloody, non-bilious emesis 
approximately once a day, which she associates with crack 
cocaine use. She also complains of vaginal discharge and 
dysuria. Yesterday she had chest pain that radiated to the left 
shoulder, associated with nausea, vomiting and diaphoresis. She 
also complains of worsened dyspnea on exertion and leg swelling. 
She feels winded when walking about 30 feet. She had subjective 
fever, palpitations, felt dizzy. She is now complaining of right 
sided chest pain. She has experienced similar symptoms in the 
past. 

In the ED, her initial vitals were: 99.0 81 117/84 18 100 RA. 
She had a tender abdominal exam. Her ECG showed twi and ST 
elevations not changed. Patient recieved an ASA 325.  
.
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, hemoptysis, black stools 
or red stools. She denies exertional buttock or calf pain. All 
of the other review of systems were negative.  
.
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea or orthopnea.  
 
Past Medical History:
Diabetes
Dyslipidemia
Hypertension   
.  
Other Past History:
- Severe nonischemic cardiomyopathy (EF of ___,  
- Diabetes type 2 complicated by neuropathy and retinopathy 
managed by Dr. ___ at ___  
-Depression   
- cocaine abuse
- tobacco use
 
Social History:
___
Family History:
CHF- father, paternal grandfather; Aunt and uncle who died 
suddenly from cardiac death versus CHF in their ___ to ___. 
Mother has diabetes.  
 
Physical Exam:
T: 97.8, BP: 101/71, P: 67, RR: 16, O2 sat 97%
Gen: thin middle aged female in NAD. Oriented x3. 
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. adenturous, 
wears dentures
Neck: Supple with no JVD  
CV: hyperdynamic precordium, PMI enlarged, non-displaced, 
midclavicular line. RR, normal S1, S2. No m/r/g. No S3 or S4.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: BS+, soft, mildly tender to palpation in epigastrium. No 
HSM or tenderness. No CVA tenderness.
Ext: No c/c/e.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+  DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
.  
 
Pertinent Results:
___ 06:57AM BLOOD WBC-4.0 RBC-3.48* Hgb-11.1* Hct-33.7* 
MCV-97 MCH-31.8 MCHC-32.8 RDW-14.9 Plt ___
___ 03:05PM BLOOD WBC-4.6 RBC-3.65* Hgb-11.6* Hct-35.3* 
MCV-97 MCH-31.6 MCHC-32.7 RDW-14.8 Plt ___
___ 03:05PM BLOOD Neuts-63.2 ___ Monos-5.9 Eos-1.4 
Baso-0.7
___ 06:57AM BLOOD Glucose-155* UreaN-16 Creat-1.0 Na-136 
K-4.2 Cl-104 HCO3-23 AnGap-13
___ 03:05PM BLOOD Glucose-227* UreaN-16 Creat-1.0 Na-135 
K-4.4 Cl-104 HCO3-23 AnGap-12
___ 06:57AM BLOOD ALT-27 AST-29 CK(CPK)-61 AlkPhos-122*
___ 06:57AM BLOOD CK-MB-2 cTropnT-<0.01
___ 12:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:57AM BLOOD Calcium-8.9 Phos-5.1* Mg-1.8
___ 03:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
CTA ___
1. Bilateral peripheral wedge-shaped hypoattenuating lesions in 
the kidneys are suspicious for renal infarcts and are unchanged 
since ___. 
2. Marked cardiomegaly, stable since ___. 
3. In the interim since ___, there is resolution 
of diffuse 
mesenteric edema. 
.
CXR: ___ 
Stable cardiomegaly without pulmonary edema or focal 
consolidation. 

 
Brief Hospital Course:
Patient is a  ___ y/o female h/o cardiomyopathy/CHF, DMII, 
cocaine use 2 d ago, with 1 week of bilateral flank pain, 
abdominal pain and vomiting, and chest with nausea and 
diaphoresis
.  
#. Chest pain: Several etiologies were considered including CAD- 
pt with has symptoms that could be consistent with ACS, but ECG 
unchanged and cardiac ezymes negative x2. Her cocaine use could 
certainly precipitate chest pain, particularly if she already 
has diseased arteries. CHF exacerbation was considered, but her 
chest x-ray is not consistent with CHF and she has no signs of 
CHF on physical exam. Her chest pain may have been from a GI or 
renal etiology, particularly with her complaints of concurrent 
abdominal and flank pain and nausea and vomiting. Her abdominal 
CT shows no new pathology but pain could be from her underlying 
renal infarcts (stable since ___. It was felt that a stress 
test would be most useful as an outpatient when cocaine was no 
longer in her system. She will f/u with her cardiology Dr. 
___ the stress test. 
.  
#. Abdominal Pain: She has a hx of pyelonephritis, with stable 
renal infarcts seen on CTA and UA consistent with UTI. Her 
symptoms of dysuria and flank pain were consistent with UTI. She 
was discharged on 7 days of ciprofloxacin. 
.  
#. DMII: She was continued on her home regimen of glargine 10 
units qPM and HISS
.  
#. Cocaine Abuse: Pt had a recent break-up with her boyfriend 
and relates this stressor to her increased cocaine use. She is 
interested in quitting and knows it is bad for her health. She 
was seen and evaluated by social work for homelessness and 
cocaine abuse. 
.
#. Depression: pt with slightly depressed mood since break-up 
with boyfriend. Continued on bupropion and celexa. 
.  

 
Medications on Admission:
atorvastatin 80 mg po qHS
bupropion hcl 100 mg po qD
carvedilol 6.25 mg po bid
citalopram 20 mg po qd
digoxin 125 mcg po qd
divalproex SR 250 mg po qD
furosemide 80 mg po qD
insulin glargine 10 units qAM and RISS
 
Discharge Medications:
1. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 7 days.
Disp:*14 Tablet(s)* Refills:*0*
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Bupropion HCl 100 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO QAM (once a day (in the morning)).  
4. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Carvedilol 6.25 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
6. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

7. Divalproex ___ mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO DAILY (Daily).  
8. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Insulin Glargine  Subcutaneous

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: urinary tract infection, atypical chest pain

Secondary Diagnosis: Systolic Heart Failure and cardiomyopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for nausea, vomiting, 
abdominal pain and chest pain. We were worried that there might 
be a clot in the arteries in the heart. We got lab tests and an 
ECG which showed that you were not having a clot in your heart. 

You will need a stress test as an oupatient to evaluate your 
heart further. After your stress test please schedule an 
appointment with your cardiologist Dr. ___.

It is likely that the pain you were having was related to 
cocaine use. It is very important for your heart and your 
general health that you stop using cocaine. 

We got a urine test that showed that you are having a urinary 
tract infection. You will discharged on antiobiotics to treat 
your infection. 

Medication Changes: 
ADDED Ciprofloxacin 500 mg twice a day

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___